US07960375B2
3-Acetyl-8-chloro-4-methyl-1-(3-methyl-4-nitro-phenyl)-3H-2,3-benzodiazepine
A solution of 1.5 g (4.6 mmoles) of 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-5H-2,3-benzodiazepine in 15 ml of acetic anhydride is stirred in an oil bath of 130 to 140° C. for 5 hours. The reaction mixture is poured onto about 200 g of crushed ice and the separated crystals are filtered off. The crude product is recrystallized from acetonitrile. Thus 0.78 g (46%) of the desired compound melting at a temperature of 192 to 194° C. is obtained.

reactant | 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-5H-2,3-benzodiazepine | 4.6 mmoles, 1.5 g | ClC1=CC2=C(CC(=NN=C2C2=CC(=C(C=C2)[N+](=O)[O-])C)C)C=C1 | C17H14ClN3O2
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetyl-8-chloro-4-methyl-1-(3-methyl-4-nitro-phenyl)-3H-2,3-benzodiazepine | C(C)(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C19H16ClN3O3
